US08859732B2
2-Hydroxy-4-methoxybenzaldehyde (5 g, 32.9 mmol), 1-bromodocosane (16.6 g, 42.7 mmol) and potassium carbonate (14.8 g, 107 mmol) were mixed with DMF (150 ml), and the mixture was stirred at 100° C. for 7 hr. Chloroform (400 ml) and 1N hydrochloric acid (300 ml) were added to the reaction mixture, and the mixture was washed. The organic layer was washed successively with 1N hydrochloric acid and saturated brine. The organic layer was concentrated and slurry-washed with methanol. The precipitate was collected by filtration and dried under reduced pressure. The obtained dried crystals were dissolved in THF (150 ml), sodium borohydride (3.7 g) was added, and the mixture was stirred at 40° C. for 3 hr. 1N Hydrochloric acid was added to the reaction mixture, and the mixture was concentrated. The mixture was extracted with chloroform, and washed successively with aqueous sodium hydrogen carbonate solution and saturated brine. The organic layer was concentrated. The obtained residue was washed with acetonitrile, and the precipitate was collected by filtration and dried under reduced pressure to give 2-docosyloxy-4-methoxybenzyl alcohol (9.8 g).

reactant | 2-Hydroxy-4-methoxybenzaldehyde | 32.9 mmol, 5 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | 1-bromodocosane | 42.7 mmol, 16.6 g | BrCCCCCCCCCCCCCCCCCCCCCC | C22H45Br
reactant | potassium carbonate | 107 mmol, 14.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N, 300 ml | Cl | ClH
solvent | Chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-docosyloxy-4-methoxybenzyl alcohol | 9.8 g | C(CCCCCCCCCCCCCCCCCCCCC)OC1=C(CO)C=CC(=C1)OC | C30H54O3
